US05283165
4-Methanesulfonamidoaniline (150 g, 0.8 mol) and triethylamine (81.4 g, 0.8 mol) were combined with 2.4 liters of 1:1 methanol/ethanol in a five liter round bottom flask, and stirred mechanically until all solids dissolved. 2-Bromoacetophenone (240 g, 1.2 mol) was added as a solid in several portions over a twenty minute period. The reaction was stirred at 25° C. for 14 h, during which an off-white precipitate formed. The mixture was chilled to 5° C., then the product was collected by filtration, washed with cold ethanol and dried under vacuum to yield 152 g (62%) of 2-(4-methanesulfonamidoanilino)acetophenone as an off-white solid, m.p. 165°-167° C. NMR and mass spectral data were consistent with the assigned structure.

reactant | 4-Methanesulfonamidoaniline | 0.8 mol, 150 g | CS(=O)(=O)NC1=CC=C(N)C=C1 | C7H10N2O2S
reactant | triethylamine | 0.8 mol, 81.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-Bromoacetophenone | 1.2 mol, 240 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | methanol ethanol | 2.4 liters | CO.C(C)O
product | 2-(4-methanesulfonamidoanilino)acetophenone | 152 g, 62% | CS(=O)(=O)NC1=CC=C(NCC(=O)C2=CC=CC=C2)C=C1 | C15H16N2O3S
